US06617336B1
36 g (176 mmol) of 2-acetoxy-8-hydroxyquinoline and 300 ml are placed in a 1 l round-bottomed flask. The reaction mixture is cooled with an ice bath and 62.3 ml (370 mmol) of trifluoromethanesulfonic anhydride are added dropwise and stirring is continued at 0° C. for 3 h. The reaction mixture is poured onto a mixture of 200 ml of 3M hydrochloric acid and of ice. A brown precipitate appears and is filtered off and then washed with 3×50 ml of water and is dried in a desiccator under vacuum over phosphorus pentoxide to provide to provide 56.6 g of 2-acetoxy-8-trifluoromethanesulfonyloxy-quinoline in the form of a brown solid; M.p.=90° C. (Yield: 96%)

reactant | 2-acetoxy-8-hydroxyquinoline | 176 mmol, 36 g | C(C)(=O)OC1=NC2=C(C=CC=C2C=C1)O | C11H9NO3
reactant | trifluoromethanesulfonic anhydride | 370 mmol, 62.3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | hydrochloric acid | 3M, 200 ml | Cl | ClH
product | 2-acetoxy-8-trifluoromethanesulfonyloxy-quinoline | 56.6 g, Yield: 96% | C(C)(=O)OC1=NC2=C(C=CC=C2C=C1)OS(=O)(=O)C(F)(F)F | C12H8F3NO5S
